US07750154B2
To a solution of N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide (3.0 g) and (R)-(+)-1-(tert-butoxycarbonyl)-2-pyrrolidinemethanol (2.54 g) in DMF (45 ml) was added sodium hydride (1.54 g of a 60% dispersion in oil) portion-wise (ice bath cooling). The reaction was stirred for 43 hours at room temperature under an atmosphere of argon. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution (200 ml) and the resulting precipitate was collected by filtration, dissolved in methanol (10 ml) and 4N HCl in dioxane (5 ml) added. The reaction mixture was stirred at room temperature for 16 hours, concentrated and re-precipitated from methanol/ethyl acetate to yield N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitro-5-[(2R)-pyrrolidin-2-ylmethoxy]benzamide hydrochloride salt (3.32 g) as a yellow solid; NMR Spectrum: (DMSOd6) 0.64 (m, 2H), 0.75 (m, 2H), 1.83 (m, 1H), 1.95-2.12 (m, 2H), 2.21 (m, 1H), 2.37 s, 3H), 2.91 (m, 1H), 3.30 (m, 2H), 4.02 (m, 1M), 4.45 (m, 1H), 4.55 (m, 1H), 7.37 (m, 3H), 0.70 (d, 1H), 8.02 (s, 1H), 8.29 (d, 1M), 8.49 (d, 1H), 9.50 (s, 1H), 10.22 (s, 1H); Mass Spectrum: M+H+ 439.

reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | 3.0 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
reactant | (R)-(+)-1-(tert-butoxycarbonyl)-2-pyrrolidinemethanol | 2.54 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
reactant | sodium hydride | [H-].[Na+]
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitro-5-[(2R)-pyrrolidin-2-ylmethoxy]benzamide hydrochloride salt | 3.32 g | Cl.C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)OC[C@@H]1NCCC1)[N+](=O)[O-])=O)C | InChI=1S/C23H26N4O5.ClH/c1-14-4-5-15(22(28)25-16-6-7-16)11-20(14)26-23(29)19-12-18(8-9-21(19)27(30)31)32-13-17-3-2-10-24-17;/h4-5,8-9,11-12,16-17,24H,2-3,6-7,10,13H2,1H3,(H,25,28)(H,26,29);1H/t17-;/m1./s1
